US03962354
Methyl cis 6-hydroxy-3-hexenoate
A mixture of 2.85 g. (26 mmoles)of 1-methoxy-1, 4-cyclohexadiene and 30 ml. of absolute methanol was treated with ozone (1.25 g., 26 mmoles) at -78°C. The resulting mixture was flushed with nitrogen. The mixture was allowed to come to 0°C and 2.42 g. (39 mmoles) of dimethylsulfide were added and the mixture stirred at this temperature for 80 minutes. After cooling to -78°C, a suspension of 1.47 g/ (39 mmoles) of sodium borohydride in 20 ml. of absolute ethanol was added dropwise. The resulting mixture was allowed to come up to room temperature and then stirred for 80 minutes. The methanol was removed under vacuum to produce 3.3 g. of product (88% of theory). B.p. 60° (0.2 mm., short path distillation).

reactant | 1-methoxy-1, 4-cyclohexadiene | 26 mmoles | COC1=CCC=CC1 | C7H10O
reactant | ozone | 26 mmoles, 1.25 g | O=[O+][O-] | O3
reactant | dimethylsulfide | 39 mmoles | CSC | C2H6S
reactant | sodium borohydride | 39 mmoles | [BH4-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | Methyl cis 6-hydroxy-3-hexenoate | OCC\C=C/CC(=O)OC | C7H12O3
